US07951951B2
At 70° C., 146.0 mg (0.52 mmol) of 4-[(6-chloropyridin-3-yl)methyl]-6-hydroxy-5,6,7,7a-tetrahydrofuro[3,2-b]pyridin-2(4H)-one (cf. I-16) and 274.2 mg (1.05 mmol) of triphenylphosphine are stirred in a mixture of 2.5 ml of acetonitrile and 2.5 ml of carbon tetrachloride. After cooling to room temperature, the mixture is diluted with dichloromethane and washed successively with dilute aqueous ammonium hydroxide solution and saturated sodium chloride solution: the organic phase is dried over sodium sulphate and concentrated under reduced pressure. Purification of the residue by column chromatography on silica gel (silica gel 60, Merck, particle size: 0.04 to 063 m) using the mobile phase ethyl acetate and subsequent preparative HPLC gives both possible diastereomers of 4-[(6-chloropyridin-3-yl)methyl]-6-chloro-5,6,7,7a-tetrahydrofuro[3,2-b]pyridin-2(4H)-one: (a) 4 mg of diastereomer A (3% of theory) and (b) 15 mg of diastereomer B (9% of theory). In addition, (c) 10 mg (7% of theory) of 4-[(6-chloropyridin-3-yl)methyl]-7,7a-dihydrofuro[3,2-b]pyridin-2(4H)-one are obtained.

reactant | 4-[(6-chloropyridin-3-yl)methyl]-6-hydroxy-5,6,7,7a-tetrahydrofuro[3,2-b]pyridin-2(4H)-one | 0.52 mmol, 146.0 mg | ClC1=CC=C(C=N1)CN1C=2C(CC(C1)O)OC(C2)=O | C13H13ClN2O3
reactant | triphenylphosphine | 1.05 mmol, 274.2 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 2.5 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | acetonitrile | 2.5 ml | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-[(6-chloropyridin-3-yl)methyl]-6-chloro-5,6,7,7a-tetrahydrofuro[3,2-b]pyridin-2(4H)-one | ClC1=CC=C(C=N1)CN1C=2C(CC(C1)Cl)OC(C2)=O | C13H12Cl2N2O2
